US06316438B1
1-Ethyl-1H-pyrazolo[3,4-b]pyridine-4,5-dicarboxylic acid
4-Cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (2.0 g, 8.2 mmol) was suspended in ethanol (20 mL), and an aqueous solution of NaOH (6 N, 3 eq) was added. The reaction mixture was heated at reflux for 2 h and then diluted with water (100 mL). This aqueous solution was extracted with diethyl ether (50 mL×2) and the organic extracts were discarded. The aqueous layer was then acidified with phosphoric acid and extracted with EtOAc (50 mL×3). The extracts were concentrated via evaporation under reduced pressure to afford the title compound (>90% purity, 50-90% yield). This material was used directly without further purification.

reactant | 4-Cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 8.2 mmol, 2.0 g | C(#N)C1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C12H12N4O2
reactant | NaOH | 6 N, 3 eq | [OH-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 1-Ethyl-1H-pyrazolo[3,4-b]pyridine-4,5-dicarboxylic acid | 50-90% yield | C(C)N1N=CC=2C1=NC=C(C2C(=O)O)C(=O)O | C10H9N3O4
